US05001125
To a stirred mixture of 80 parts of 1-butanol, 0.4 parts of sodium hydroxide and 0.94 parts of phenol were added 2.2 parts of 3-chloro-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine at 60° C. The whole was stirred and refluxed over weekend. The reaction mixture was evaporated. The residue was crystallized from 2,2'-oxybispropane. The product was filtered off and dried, yielding 2 parts (64%) of 3-butoxy-6-[4(3-methylphenyl)-1-piperazinyl]pyridazine; mp. 105.2° C. (compound 257).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 3-chloro-6-[4-(3-methylphenyl)-1-piperazinyl]pyridazine | ClC=1N=NC(=CC1)N1CCN(CC1)C1=CC(=CC=C1)C | C15H17ClN4
solvent | 1-butanol | C(CCC)O | C4H10O
product | 3-butoxy-6-[4(3-methylphenyl)-1-piperazinyl]pyridazine | 64% | C(CCC)OC=1N=NC(=CC1)N1CCN(CC1)C1=CC(=CC=C1)C | C19H26N4O
